.title kicad schematic

v3 3_c gnd pulse(5 0 0 10n 10n 1m 2m)
v2 2_b gnd pulse(5 0 0 10n 10n 1m 2m)
v1 1_a gnd pulse(5 0 0 10n 10n 1m 2m)
* u15 2_b net-_u15-pad2_ adc_bridge_1
* u16 3_c net-_u16-pad2_ adc_bridge_1
* u3 3_c plot_v1
* u2 2_b plot_v1
* u1 1_a plot_v1
* u14 1_a net-_u14-pad2_ adc_bridge_1
* u27 net-_u15-pad2_ net-_u16-pad2_ net-_u27-pad3_ d_and
* u33 net-_u14-pad2_ net-_u27-pad3_ net-_u33-pad3_ d_and
* u36 net-_u31-pad3_ net-_u32-pad3_ net-_u36-pad3_ d_and
v6 4_d gnd pulse(5 0 0 10n 10n 1m 2m)
v7 5_e gnd pulse(5 0 0 10n 10n 1m 2m)
* u25 6_f net-_u25-pad2_ adc_bridge_1
* u8 6_f plot_v1
* u31 net-_u23-pad2_ net-_u24-pad2_ net-_u31-pad3_ d_and
* u32 net-_u25-pad2_ net-_u26-pad2_ net-_u32-pad3_ d_and
v8 6_f gnd pulse(5 0 0 10n 10n 1m 2m)
* u6 4_d plot_v1
* u23 4_d net-_u23-pad2_ adc_bridge_1
* u24 5_e net-_u24-pad2_ adc_bridge_1
* u7 5_e plot_v1
* u4 12_j plot_v1
* u17 12_j net-_u17-pad2_ adc_bridge_1
v4 12_j gnd pulse(5 0 0 10n 10n 1m 2m)
v10 11_i gnd pulse(5 0 0 10n 10n 1m 2m)
v9 10_h gnd pulse(5 0  0 10n 10n 1m 2m)
v13 7_g gnd pulse(5 0 0 10n 10n 1m 2m)
* u10 11_i plot_v1
* u20 11_i net-_u20-pad2_ adc_bridge_1
* u13 7_g plot_v1
* u19 10_h net-_u19-pad2_ adc_bridge_1
* u26 7_g net-_u26-pad2_ adc_bridge_1
* u9 10_h plot_v1
* u34 net-_u29-pad3_ net-_u28-pad3_ net-_u34-pad3_ d_and
* u29 net-_u19-pad2_ net-_u20-pad2_ net-_u29-pad3_ d_and
* u28 net-_u17-pad2_ net-_u18-pad2_ net-_u28-pad3_ d_and
* u38 net-_u34-pad3_ net-_u38-pad2_ net-_u38-pad3_ d_and
* u37 net-_u33-pad3_ net-_u36-pad3_ net-_u37-pad3_ d_and
* u39 net-_u37-pad3_ net-_u38-pad3_ net-_u39-pad3_ d_and
* u40 net-_u39-pad3_ net-_u40-pad2_ d_inverter
* u41 net-_u40-pad2_ 9_y dac_bridge_1
* u42 9_y plot_v1
v12 15_m gnd pulse(5 0 0 10n 10n 1m 2m)
v11 14_l gnd pulse(5 0 0 10n 10n 1m 2m)
v5 13_k gnd pulse(5 0 0 10n 10n 1m 2m)
* u5 13_k plot_v1
* u18 13_k net-_u18-pad2_ adc_bridge_1
* u11 14_l plot_v1
* u21 14_l net-_u21-pad2_ adc_bridge_1
* u30 net-_u21-pad2_ net-_u22-pad2_ net-_u38-pad2_ d_and
* u12 15_m plot_v1
* u22 15_m net-_u22-pad2_ adc_bridge_1
a1 [2_b ] [net-_u15-pad2_ ] u15
a2 [3_c ] [net-_u16-pad2_ ] u16
a3 [1_a ] [net-_u14-pad2_ ] u14
a4 [net-_u15-pad2_ net-_u16-pad2_ ] net-_u27-pad3_ u27
a5 [net-_u14-pad2_ net-_u27-pad3_ ] net-_u33-pad3_ u33
a6 [net-_u31-pad3_ net-_u32-pad3_ ] net-_u36-pad3_ u36
a7 [6_f ] [net-_u25-pad2_ ] u25
a8 [net-_u23-pad2_ net-_u24-pad2_ ] net-_u31-pad3_ u31
a9 [net-_u25-pad2_ net-_u26-pad2_ ] net-_u32-pad3_ u32
a10 [4_d ] [net-_u23-pad2_ ] u23
a11 [5_e ] [net-_u24-pad2_ ] u24
a12 [12_j ] [net-_u17-pad2_ ] u17
a13 [11_i ] [net-_u20-pad2_ ] u20
a14 [10_h ] [net-_u19-pad2_ ] u19
a15 [7_g ] [net-_u26-pad2_ ] u26
a16 [net-_u29-pad3_ net-_u28-pad3_ ] net-_u34-pad3_ u34
a17 [net-_u19-pad2_ net-_u20-pad2_ ] net-_u29-pad3_ u29
a18 [net-_u17-pad2_ net-_u18-pad2_ ] net-_u28-pad3_ u28
a19 [net-_u34-pad3_ net-_u38-pad2_ ] net-_u38-pad3_ u38
a20 [net-_u33-pad3_ net-_u36-pad3_ ] net-_u37-pad3_ u37
a21 [net-_u37-pad3_ net-_u38-pad3_ ] net-_u39-pad3_ u39
a22 net-_u39-pad3_ net-_u40-pad2_ u40
a23 [net-_u40-pad2_ ] [9_y ] u41
a24 [13_k ] [net-_u18-pad2_ ] u18
a25 [14_l ] [net-_u21-pad2_ ] u21
a26 [net-_u21-pad2_ net-_u22-pad2_ ] net-_u38-pad2_ u30
a27 [15_m ] [net-_u22-pad2_ ] u22
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u15 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u16 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u14 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u27 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u33 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u36 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u25 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u31 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u32 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u23 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u24 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u17 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u20 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u19 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u26 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u34 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u29 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u28 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u38 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u37 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u39 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u40 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u41 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u18 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u21 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u30 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u22 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0.01e-03 4e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(3_c)
plot v(2_b)
plot v(1_a)
plot v(6_f)
plot v(4_d)
plot v(5_e)
plot v(12_j)
plot v(11_i)
plot v(7_g)
plot v(10_h)
plot v(9_y)
plot v(13_k)
plot v(14_l)
plot v(15_m)
.endc
.end
