.title kicad schematic

* u54 net-_u39-pad2_ net-_u40-pad2_ net-_u54-pad3_ d_xnor
* u40 net-_u23-pad2_ net-_u40-pad2_ d_inverter
* u52 net-_u35-pad2_ net-_u36-pad2_ net-_u52-pad3_ d_xnor
* u61 net-_u54-pad3_ net-_u55-pad3_ net-_u61-pad3_ d_and
* u64 net-_u60-pad3_ net-_u61-pad3_ net-_u64-pad3_ d_and
* u66 net-_u64-pad3_ net-_u65-pad3_ net-_u66-pad3_ d_and
* u60 net-_u52-pad3_ net-_u53-pad3_ net-_u60-pad3_ d_and
* u53 net-_u37-pad2_ net-_u38-pad2_ net-_u53-pad3_ d_xnor
* u68 net-_u67-pad3_ net-_u68-pad2_ d_inverter
* u67 net-_u66-pad3_ net-_u51-pad2_ net-_u67-pad3_ d_and
* u70 19_obar plot_v1
* u69 net-_u68-pad2_ 19_obar dac_bridge_1
* u41 net-_u24-pad2_ net-_u41-pad2_ d_inverter
* u55 net-_u41-pad2_ net-_u42-pad2_ net-_u55-pad3_ d_xnor
* u42 net-_u25-pad2_ net-_u42-pad2_ d_inverter
* u43 net-_u26-pad2_ net-_u43-pad2_ d_inverter
* u44 net-_u27-pad2_ net-_u44-pad2_ d_inverter
* u56 net-_u43-pad2_ net-_u44-pad2_ net-_u56-pad3_ d_xnor
* u59 net-_u49-pad2_ net-_u50-pad2_ net-_u59-pad3_ d_xnor
* u58 net-_u47-pad2_ net-_u48-pad2_ net-_u58-pad3_ d_xnor
* u51 net-_u34-pad2_ net-_u51-pad2_ d_buffer
* u65 net-_u62-pad3_ net-_u63-pad3_ net-_u65-pad3_ d_and
* u62 net-_u56-pad3_ net-_u57-pad3_ net-_u62-pad3_ d_and
* u63 net-_u58-pad3_ net-_u59-pad3_ net-_u63-pad3_ d_and
* u57 net-_u45-pad2_ net-_u46-pad2_ net-_u57-pad3_ d_xnor
* u45 net-_u28-pad2_ net-_u45-pad2_ d_inverter
* u46 net-_u29-pad2_ net-_u46-pad2_ d_inverter
v15 17_a7 gnd pulse(0 5 0 10n 10n 2m 4m)
v16 18_b7 gnd pulse(0 5 0 10n 10n 1m 2m)
v14 16_b6 gnd pulse(0 5 0 10n 10n 1m 2m)
v13 15_a6 gnd pulse(0 5 0 10n 10n 2m 4m)
* u34 1_ibar net-_u34-pad2_ adc_bridge_1
* u33 18_b7 net-_u33-pad2_ adc_bridge_1
* u16 18_b7 plot_v1
* u50 net-_u33-pad2_ net-_u50-pad2_ d_inverter
* u15 17_a7 plot_v1
* u32 17_a7 net-_u32-pad2_ adc_bridge_1
* u49 net-_u32-pad2_ net-_u49-pad2_ d_inverter
* u48 net-_u31-pad2_ net-_u48-pad2_ d_inverter
* u31 16_b6 net-_u31-pad2_ adc_bridge_1
* u14 16_b6 plot_v1
* u13 15_a6 plot_v1
* u47 net-_u30-pad2_ net-_u47-pad2_ d_inverter
* u30 15_a6 net-_u30-pad2_ adc_bridge_1
* u17 1_ibar plot_v1
v17 1_ibar gnd pulse(0 5 0 10n 10n 2m 4m)
* u37 net-_u20-pad2_ net-_u37-pad2_ d_inverter
* u3 4_a1 plot_v1
* u20 4_a1 net-_u20-pad2_ adc_bridge_1
v5 6_a2 gnd pulse(0 5 0 10n 10n 2m 4m)
v4 5_b1 gnd pulse(0 5 0 10n 10n 1m 2m)
* u36 net-_u19-pad2_ net-_u36-pad2_ d_inverter
* u1 2_a0 plot_v1
* u18 2_a0 net-_u18-pad2_ adc_bridge_1
* u19 3_b0 net-_u19-pad2_ adc_bridge_1
* u2 3_b0 plot_v1
* u35 net-_u18-pad2_ net-_u35-pad2_ d_inverter
v2 3_b0 gnd pulse(0 5 0 10n 10n 1m 2m)
v1 2_a0 gnd pulse(0 5 0 10n 10n 2m 4m)
v3 4_a1 gnd pulse(0 5 0 10n 10n 1m 2m)
* u22 6_a2 net-_u22-pad2_ adc_bridge_1
* u4 5_b1 plot_v1
* u38 net-_u21-pad2_ net-_u38-pad2_ d_inverter
* u39 net-_u22-pad2_ net-_u39-pad2_ d_inverter
* u21 5_b1 net-_u21-pad2_ adc_bridge_1
* u5 6_a2 plot_v1
* u29 14_b5 net-_u29-pad2_ adc_bridge_1
* u12 14_b5 plot_v1
* u11 13_a5 plot_v1
* u28 13_a5 net-_u28-pad2_ adc_bridge_1
v12 14_b5 gnd pulse(0 5 0 10n 10n 1m 2m)
v11 13_a5 gnd pulse(0 5 0 10n 10n 2m 4m)
v8 9_b3 gnd pulse(0 5 0 10n 10n 2m 4m)
v9 11_a4 gnd pulse(0 5 0 10n 10n 2m 4m)
v10 12_b4 gnd pulse(0 5 0 10n 10n 1m 2m)
* u25 9_b3 net-_u25-pad2_ adc_bridge_1
* u8 9_b3 plot_v1
* u26 11_a4 net-_u26-pad2_ adc_bridge_1
* u27 12_b4 net-_u27-pad2_ adc_bridge_1
* u9 11_a4 plot_v1
* u10 12_b4 plot_v1
v7 8_a3 gnd pulse(0 5 0 10n 10n 2m 4m)
v6 7_b2 gnd pulse(0 5 0 10n 10n 1m 2m)
* u7 8_a3 plot_v1
* u23 7_b2 net-_u23-pad2_ adc_bridge_1
* u6 7_b2 plot_v1
* u24 8_a3 net-_u24-pad2_ adc_bridge_1
a1 [net-_u39-pad2_ net-_u40-pad2_ ] net-_u54-pad3_ u54
a2 net-_u23-pad2_ net-_u40-pad2_ u40
a3 [net-_u35-pad2_ net-_u36-pad2_ ] net-_u52-pad3_ u52
a4 [net-_u54-pad3_ net-_u55-pad3_ ] net-_u61-pad3_ u61
a5 [net-_u60-pad3_ net-_u61-pad3_ ] net-_u64-pad3_ u64
a6 [net-_u64-pad3_ net-_u65-pad3_ ] net-_u66-pad3_ u66
a7 [net-_u52-pad3_ net-_u53-pad3_ ] net-_u60-pad3_ u60
a8 [net-_u37-pad2_ net-_u38-pad2_ ] net-_u53-pad3_ u53
a9 net-_u67-pad3_ net-_u68-pad2_ u68
a10 [net-_u66-pad3_ net-_u51-pad2_ ] net-_u67-pad3_ u67
a11 [net-_u68-pad2_ ] [19_obar ] u69
a12 net-_u24-pad2_ net-_u41-pad2_ u41
a13 [net-_u41-pad2_ net-_u42-pad2_ ] net-_u55-pad3_ u55
a14 net-_u25-pad2_ net-_u42-pad2_ u42
a15 net-_u26-pad2_ net-_u43-pad2_ u43
a16 net-_u27-pad2_ net-_u44-pad2_ u44
a17 [net-_u43-pad2_ net-_u44-pad2_ ] net-_u56-pad3_ u56
a18 [net-_u49-pad2_ net-_u50-pad2_ ] net-_u59-pad3_ u59
a19 [net-_u47-pad2_ net-_u48-pad2_ ] net-_u58-pad3_ u58
a20 net-_u34-pad2_ net-_u51-pad2_ u51
a21 [net-_u62-pad3_ net-_u63-pad3_ ] net-_u65-pad3_ u65
a22 [net-_u56-pad3_ net-_u57-pad3_ ] net-_u62-pad3_ u62
a23 [net-_u58-pad3_ net-_u59-pad3_ ] net-_u63-pad3_ u63
a24 [net-_u45-pad2_ net-_u46-pad2_ ] net-_u57-pad3_ u57
a25 net-_u28-pad2_ net-_u45-pad2_ u45
a26 net-_u29-pad2_ net-_u46-pad2_ u46
a27 [1_ibar ] [net-_u34-pad2_ ] u34
a28 [18_b7 ] [net-_u33-pad2_ ] u33
a29 net-_u33-pad2_ net-_u50-pad2_ u50
a30 [17_a7 ] [net-_u32-pad2_ ] u32
a31 net-_u32-pad2_ net-_u49-pad2_ u49
a32 net-_u31-pad2_ net-_u48-pad2_ u48
a33 [16_b6 ] [net-_u31-pad2_ ] u31
a34 net-_u30-pad2_ net-_u47-pad2_ u47
a35 [15_a6 ] [net-_u30-pad2_ ] u30
a36 net-_u20-pad2_ net-_u37-pad2_ u37
a37 [4_a1 ] [net-_u20-pad2_ ] u20
a38 net-_u19-pad2_ net-_u36-pad2_ u36
a39 [2_a0 ] [net-_u18-pad2_ ] u18
a40 [3_b0 ] [net-_u19-pad2_ ] u19
a41 net-_u18-pad2_ net-_u35-pad2_ u35
a42 [6_a2 ] [net-_u22-pad2_ ] u22
a43 net-_u21-pad2_ net-_u38-pad2_ u38
a44 net-_u22-pad2_ net-_u39-pad2_ u39
a45 [5_b1 ] [net-_u21-pad2_ ] u21
a46 [14_b5 ] [net-_u29-pad2_ ] u29
a47 [13_a5 ] [net-_u28-pad2_ ] u28
a48 [9_b3 ] [net-_u25-pad2_ ] u25
a49 [11_a4 ] [net-_u26-pad2_ ] u26
a50 [12_b4 ] [net-_u27-pad2_ ] u27
a51 [7_b2 ] [net-_u23-pad2_ ] u23
a52 [8_a3 ] [net-_u24-pad2_ ] u24
* Schematic Name:                             d_xnor, Ngspice Name: d_xnor
.model u54 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u40 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xnor, Ngspice Name: d_xnor
.model u52 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u61 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u64 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u66 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u60 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xnor, Ngspice Name: d_xnor
.model u53 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u68 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u67 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u69 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u41 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xnor, Ngspice Name: d_xnor
.model u55 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u42 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u43 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u44 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xnor, Ngspice Name: d_xnor
.model u56 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xnor, Ngspice Name: d_xnor
.model u59 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xnor, Ngspice Name: d_xnor
.model u58 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u51 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u65 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u62 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u63 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xnor, Ngspice Name: d_xnor
.model u57 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u45 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u46 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u34 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u33 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u50 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u32 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u49 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u48 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u31 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u47 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u30 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u37 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u20 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u36 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u18 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u19 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u35 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u22 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u38 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u39 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u21 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u29 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u28 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u25 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u26 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u27 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u23 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u24 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0.1e-03 4e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(19_obar)
plot v(18_b7)
plot v(17_a7)
plot v(16_b6)
plot v(15_a6)
plot v(1_ibar)
plot v(4_a1)
plot v(2_a0)
plot v(3_b0)
plot v(5_b1)
plot v(6_a2)
plot v(14_b5)
plot v(13_a5)
plot v(9_b3)
plot v(11_a4)
plot v(12_b4)
plot v(8_a3)
plot v(7_b2)
.endc
.end
